US03933799
11β-Chloro-16β-methyl-17,21-dipropionyloxypregna-1,4-diene-3,20-dione
A solution of 11β-chloro-21-hydroxy-16β-methyl-17-propionyloxypregna-1,4-diene-3,20-dione(75 mg) in pyridine (1 ml) was cooled to 0° and treated with stirring with propionyl chloride (0.04 ml). After 90 minutes a little water was added and the solution poured into dilute hydrochloric acid. The precipitated solid was removed by filtration and recrystallized from methanol to give the title compound, m.p. 220°-222° (K), [α]D + 105° (c 0.6, chloroform) λmax 240nm (ε 15,060) (Found C, 65.9; H, 7.2; Cl, 6.7. C28H37ClO6 requires C, 65.7; H, 7.55; Cl, 7.0%).

reactant | 11β-chloro-21-hydroxy-16β-methyl-17-propionyloxypregna-1,4-diene-3,20-dione | 75 mg | Cl[C@@H]1[C@@H]2[C@]3(C=CC(C=C3CC[C@H]2[C@@H]2C[C@@H]([C@](C(CO)=O)([C@]2(C1)C)OC(CC)=O)C)=O)C | C25H33ClO5
reactant | propionyl chloride | 0.04 ml | C(CC)(=O)Cl | C3H5ClO
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 11β-Chloro-16β-methyl-17,21-dipropionyloxypregna-1,4-diene-3,20-dione | Cl[C@@H]1[C@@H]2[C@]3(C=CC(C=C3CC[C@H]2[C@@H]2C[C@@H]([C@](C(COC(CC)=O)=O)([C@]2(C1)C)OC(CC)=O)C)=O)C | C28H37ClO6
